US05187189
N-Ethyl-S-(3-diethylaminopropyl)-S-(4-nitrophenyl)sulfoximine
A solution of S-(3-diethylaminopropyl)-S-(4-nitrophenyl)sulfoximine (10 mmol) in dimethylformamide is added to a stirred suspension of 60% sodium hydride-oil dispersion (10 mmol) at ambient temperature. After stirring for 30 min the mixture is warmed to 50° C. for 30 min and then cooled to ambient temperature. Iodoethane (10 mmol) is added dropwise to the reaction mixture and stirred at ambient temperature for 30 min and then warmed to 50° C. for 1 hr. The reaction mixture is diluted with water and extracted with methylene chloride. The methylene chloride extract is concentrated in vacuo and the residue partitioned between methylene chloride-1N hydrochloric acid. The acid layer is separated and basified with 50% sodium hydroxide solution and extracted with methylene chloride. The methylene chloride extract is washed with water, dried, and concentrated to obtain the title compound.

reactant | S-(3-diethylaminopropyl)-S-(4-nitrophenyl)sulfoximine | 10 mmol | C(C)N(CCCS(=O)(=N)C1=CC=C(C=C1)[N+](=O)[O-])CC | C13H21N3O3S
reactant | sodium hydride | [H-].[Na+]
reactant | Iodoethane | 10 mmol | ICC | C2H5I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-Ethyl-S-(3-diethylaminopropyl)-S-(4-nitrophenyl)sulfoximine | C(C)N=S(=O)(C1=CC=C(C=C1)[N+](=O)[O-])CCCN(CC)CC | C15H25N3O3S
